US08003800B2
To a solution of 4-benzyloxy-3-ethyl-5-methyl-benzaldehyde (5.0 g, 19.7 mmol) in acetone (200 mL), KMnO4 (4.66 g, 29.5 mmol) is added. The dark violet solution becomes slightly warm and turns dark brown. The mixture is stirred at rt for 90 min before the solvent is evaporated. The residue is treated with 10% aq. citric acid soluiton (200 mL) and brine (200 mL) and extracted four times with DCM (4×200 mL). The combined organic extracts are dried over MgSO4, filtered and concentrated. The crude product is purified by CC on silica gel eluting with heptane:EA 1:1 to give 4-benzyloxy-3-ethyl-5-methyl-benzoic acid (3.70 g) as a white solid; LC-MS: tR=0.98 min, [M+1+CH3CN]+=311.97.

reactant | 4-benzyloxy-3-ethyl-5-methyl-benzaldehyde | 19.7 mmol, 5.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1C)CC | C17H18O2
reactant | KMnO4 | 29.5 mmol, 4.66 g | [O-][Mn](=O)(=O)=O.[K+]
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 4-benzyloxy-3-ethyl-5-methyl-benzoic acid | 3.70 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1C)CC | C17H18O3
